US09284323B2
A solution of 2,2-dibromo-3,6-dimethyl-3,4-dihydronaphthalen-1(2H)-one (61.2 g, 184 mmol) in MeCN (1.5 L) was cooled to −40° C. internal temperature using a dry ice/acetone bath. 1,8-Diazabicycloundec-7-ene (41.6 mL, 279 mmol) was added as a solution in MeCN (150 mL) and the reaction was allowed to warm to room temperature overnight. The majority of the reaction solvent was removed in vacuo and the residue taken up in EtOAc (1 L) and washed with 0.5 M HCl (1 L). The resulting aqueous layer was extracted with several portions of EtOAc and the combined organics were washed with brine. Following drying over anhydrous MgSO4 and concentration in vacuo, the resulting residue was absorbed directly onto 200 g silica gel and eluted on Isco silica gel column chromatography (0-20% EtOAc/hex) to afford 2-bromo-3,6-dimethylnaphthalen-1-ol. LCMS-ESI+ (m/z): [M]+ calcd for C12H11BrO: 251.1. found: 251.4.

reactant | 2,2-dibromo-3,6-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 184 mmol, 61.2 g | BrC1(C(C2=CC=C(C=C2CC1C)C)=O)Br | C12H12Br2O
reactant | 1,8-Diazabicycloundec-7-ene | 279 mmol, 41.6 mL | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
solvent | MeCN | 1.5 L | CC#N | C2H3N
solvent | MeCN | 150 mL | CC#N | C2H3N
product | 2-bromo-3,6-dimethylnaphthalen-1-ol | BrC1=C(C2=CC=C(C=C2C=C1C)C)O | C12H11BrO
